### PR TITLE
feat(Computability): add Kleene's algorithm to prove regular languages have regex matching 

### PR DESCRIPTION
**Pull request by yisiox**
This PR adds a proof that every regular language has some regular expression matching it.

This was achieved by the following constructions and proofs of their correctness

- Define `toSingleεNFA` to transform any epsilon-NFA to an equivalent one with only a single start and accept state (and the type is `ExtendedState`)
- Define a bijection between `ExtendedState` and `Fin (FinEnum.card (ExtendedState σ))`  to index the states
- Define `pathRegex` which implements Kleene's algorithm
- Define `toRegex` which takes an epsilon-NFA, applies `toSingleεNFA` on it, and computes the corresponding regex using `pathRegex`

The proofs of correctness chain together to yield `(toRegex M).matches' = M.accepts` which asserts the direction of Kleene's theorem required.

---

As in [#mathlib4 > Regular languages: the review queue @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Regular.20languages.3A.20the.20review.20queue/near/573958148), this overlaps with #15654, which uses GNFA instead but has been inactive.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Computability/EpsilonNFA.lean [hunk 1]
```diff
@@ -362,3 +366,498 @@ theorem accept_one : (1 : εNFA α σ).accept = univ :=
   rfl
 
 end εNFA
+
+namespace RegularExpression
+
+theorem matches'_foldl_acc {α : Type*}
+    (L : List α) (f : α → RegularExpression α) (acc : RegularExpression α) :
+    (L.foldl (fun acc a => acc + f a) acc).matches' =
```
Comment (YaelDillies) [inline Mathlib/Computability/EpsilonNFA.lean]: Is this not the same as
```suggestion
    (acc + (L.map f).sum).matches' =
```
? Let's use existing primitives where possible. Eg this shows that probably we want lemmas about `(a + b).matches'` and `(L.map f).sum.matches'`

File: Mathlib/Computability/EpsilonNFA.lean [hunk 2]
```diff
@@ -362,3 +366,498 @@ theorem accept_one : (1 : εNFA α σ).accept = univ :=
...
+theorem mem_matches_star_concat {R : RegularExpression α} {w₁ w₂ : List α}
+    (h₁ : w₁ ∈ R.star.matches') (h₂ : w₂ ∈ R.star.matches') :
+    w₁ ++ w₂ ∈ R.star.matches' := by
+  rw [matches'_star, Language.mem_kstar] at *
+  rcases h₁ with ⟨L₁, rfl, hL₁⟩
+  rcases h₂ with ⟨L₂, rfl, hL₂⟩
+  exact ⟨L₁ ++ L₂, by simp, List.forall_mem_append.mpr ⟨hL₁, hL₂⟩⟩
+
+theorem mem_matches_star_singleton {R : RegularExpression α} {w : List α}
+    (h : w ∈ R.matches') : w ∈ R.star.matches' := by
```
Comment (YaelDillies) [inline Mathlib/Computability/EpsilonNFA.lean]: There is no singleton in the statement
```suggestion
theorem mem_matches'_star {R : RegularExpression α} {w : List α}
    (h : w ∈ R.matches') : w ∈ R.star.matches' := by
```

File: Mathlib/Computability/EpsilonNFA.lean [hunk 3]
```diff
@@ -362,3 +366,498 @@ theorem accept_one : (1 : εNFA α σ).accept = univ :=
...
+  | start : ExtendedState σ
+  | accept : ExtendedState σ
+  | state (s : σ) : ExtendedState σ
+  deriving DecidableEq, Fintype
+
+variable (M) in
+/-- Transform any `εNFA` into an `εNFA` with a single start state and accept state. -/
+@[simps]
+def toSingleεNFA : εNFA α (ExtendedState σ) where
+  step q oa := match q, oa with
```
Comment (YaelDillies) [inline Mathlib/Computability/EpsilonNFA.lean]:
```suggestion
  step
```

File: Mathlib/Computability/EpsilonNFA.lean [hunk 4]
```diff
@@ -362,3 +366,498 @@ theorem accept_one : (1 : εNFA α σ).accept = univ :=
...
+    | .start, some _   => ∅
+    | .start, none     => (M.start).image .state
+    | .accept, _       => ∅
+    | .state s, some a => (M.step s (some a)).image .state
+    | .state s, none   =>
+      (M.step s none).image .state ∪
+      if s ∈ M.accept then { ExtendedState.accept } else ∅
+  start := { .start }
+  accept := { .accept }
```
Comment (YaelDillies) [inline Mathlib/Computability/EpsilonNFA.lean]:
```suggestion
  start := {.start}
  accept := {.accept}
```

**Review by YaelDillies — COMMENTED** [review]
Are you sure you don't want to contribute this to cslib instead? I am by no means a computability expert, and you will probably experience much faster review there than here.

File: Mathlib/Computability/EpsilonNFA.lean (hunk 2 above)
Comment (yisiox) [reply Mathlib/Computability/EpsilonNFA.lean]: Done, my bad. Also renamed those that say `matches` to `matches'` to be consistent.

File: Mathlib/Computability/EpsilonNFA.lean (hunk 3 above)
Comment (yisiox) [reply Mathlib/Computability/EpsilonNFA.lean]: Done.

File: Mathlib/Computability/EpsilonNFA.lean (hunk 4 above)
Comment (yisiox) [reply Mathlib/Computability/EpsilonNFA.lean]: Done.

File: Mathlib/Computability/EpsilonNFA.lean (hunk 1 above)
Comment (yisiox) [reply Mathlib/Computability/EpsilonNFA.lean]: I was struggling with representing the base case of Kleene's algorithm $R^0_{ij}=\bigcup_{a:q_j\in \delta(q_i,a)}a$ and had the awkward `foldl` in `directRegex`, hence this lemma about `foldl` and `matches'`. I changed it now to sum and map as suggested and only a lemma about `(L.map f).sum.matches'` is needed since there is no accumulator anymore. Hopefully it's less awkward.

**Comment by YaelDillies** [comment]
Talking to @chenson2018, we agree this would be a better fit for cslib. Can you reopen the PR there?
